US07056918B2
To a solution of 3-amino-4-cyclobutylamino-benzoic acid methyl ester (15.94 g, 72.3 mmol) in dichloromethane (250 ml) at 23 C was added phosgene (38.3 ml of a 20% solution in toluene) dropwise over 30 minutes. The reaction was allowed to stand for 2 hours then was diluted with water and extracted with ethyl acetate. The organic layer was dried with sodium sulfate and concentrated in vacuo to give 17.01 g of 1-cyclobutyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester.

reactant | 3-amino-4-cyclobutylamino-benzoic acid methyl ester | 72.3 mmol, 15.94 g | COC(C1=CC(=C(C=C1)NC1CCC1)N)=O | C12H16N2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-cyclobutyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester | 17.01 g | COC(=O)C1=CC2=C(N(C(N2)=O)C2CCC2)C=C1 | C13H14N2O3
